US04877881
According to the procedure of Example 1, ethyl 6-(3-methoxy-4-hydroxyphenyl)-2,4-dioxo-5-hexenoate is reacted with hydrazine hydrate to afford ethyl-3-[β-(3-methoxy-4-hydroxyphenyl)ethenyl]-1H-pyrazole-5-carboxylate in 51% yield, mp=99°-101° C.

reactant | ethyl 6-(3-methoxy-4-hydroxyphenyl)-2,4-dioxo-5-hexenoate | COC=1C=C(C=CC1O)C=CC(CC(C(=O)OCC)=O)=O | C15H16O6
reactant | hydrazine hydrate | O.NN
product | ethyl-3-[β-(3-methoxy-4-hydroxyphenyl)ethenyl]-1H-pyrazole-5-carboxylate | 51% yield | C(C)OC(=O)C1=CC(=NN1)C=CC1=CC(=C(C=C1)O)OC | C15H16N2O4
